US06699861B1
tert-Butyl 4-[N-[7-Chloro-2-hydroxymethyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate
To a solution of tert-butyl 4-[N-[2-acetoxymethyl-7-chloro-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate (0.070 g, 0.14 mmol) in THF (2.7 ml) was dropwise added aqueous NaOH (1N, 0.27 ml, 0.27 mmol) followed by water (0.2 ml). The reaction mixture was stirred at room temperature for 2 hours, then the THF was removed in vacuo. The residue was suspended in water (10 ml) and the pH was adjusted to ˜5 with 1N HCl. The white precipitate was. collected by filtration, dried in vacuo and then it was reprecipitated from dichloromethane/hexanes to afford the title compound as a white solid (0.044 g, 70%), mp 185-187° C.; 1H-NMR (DMSO-d6) 1.49 (s, 9H, But), 3.25 (s, 1H, C≡CH), 4.35, 4.38 (2×s, 4H, CH2C≡C and 2-CH2), 4.78 (s, 2H, 6-CH2), 5.62 (br s, 1H, OH), 6.78 (d, J=8.7 Hz, 2H, 3′,5′-ArH), 7.73 (d, J=8.6 Hz, 2H, 2′,6′-ArH), 7.78, 7.84 (2×s, 2H, 5-H, 8-H), 12.07 (s, 1H, N3—H); FAB-HRMS: measured: 453.1463, calculated for C24H24ClN3O4: 453.1455.

reactant | tert-butyl 4-[N-[2-acetoxymethyl-7-chloro-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate | 0.14 mmol, 0.070 g | C(C)(=O)OCC1=NC2=CC(=C(C=C2C(N1)=O)CN(CC#C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)Cl | C26H26ClN3O5
reactant | NaOH | 0.27 mmol, 1N, 0.27 ml | [OH-].[Na+]
reactant | water | 0.2 ml | O | H2O
solvent | THF | 2.7 ml | C1CCOC1 | C4H8O
product | tert-Butyl 4-[N-[7-Chloro-2-hydroxymethyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate | 0.044 g, 70% | ClC1=C(C=C2C(NC(=NC2=C1)CO)=O)CN(CC#C)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C24H24ClN3O4
